US06229049B1
A hexane solution (13.7 ml, 21.6 mmol) of 1.58 M n-butyllithium was added dropwise to a solution of 1-bromo-2,4-difluorobenzene (4.2 g, 21.8 mmol) in absolute ether (60 ml) at −70° C., and the mixture was stirred for 15 minutes at the same temperature. A solution of ethyl 2,2-difluoro-2-(methylthio)acetate (3.7 g, 21.6 mmol) in absolute ether (20 ml) was added to this solution at −70° C. After the resultant mixture was stirred for 1 hour at the same temperature, the temperature of the reaction mixture was raised to 0° C. for 1 hour. The reaction mixture was poured into diluted hydrochloric acid-containing ice to conduct extraction with ether. After the resultant ether solution was washed with water and dried, the solvent was distilled off. The resultant residue was purified by distillation under reduced pressure to obtain 1-(2,4-difluorophenyl)-2,2-difluoro-2-(methylthio)-1-ethanone (4.1 g, yield: 90.0%) as a colorless oil.

reactant | hexane | 21.6 mmol, 13.7 ml | CCCCCC | C6H14
reactant | n-butyllithium | 1.58 M | C(CCC)[Li]
reactant | 1-bromo-2,4-difluorobenzene | 21.8 mmol, 4.2 g | BrC1=C(C=C(C=C1)F)F | C6H3BrF2
reactant | ethyl 2,2-difluoro-2-(methylthio)acetate | 21.6 mmol, 3.7 g | FC(C(=O)OCC)(SC)F | C5H8F2O2S
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | 1-(2,4-difluorophenyl)-2,2-difluoro-2-(methylthio)-1-ethanone | 4.1 g, yield: 90.0% | FC1=C(C=CC(=C1)F)C(C(SC)(F)F)=O | C9H6F4OS
